US05344968
Except for using 2.8 g of 2,4-dichlorobenzoic acid (14.6 mM), 0.75 g of cuprous chloride (7.5 mM) and 100 ml of methanol containing 20% dimethylamine (77 g), the same apparatus, reagents and procedures were employed for reaction as in Example 1. The reaction was followed by reversed-phase HPLC as in Example 1, and as a result, completion of the methanol reaction within two hours was confirmed. After the methanol was removed, 50 ml of water was added and heated in a bath temperature of 80° C., to turn the solution into a uniform mixture solution of green. The green solution was cooled in ice-water to a room temperature. Then, 1.2 ml of conc. HCl was added to consequently deposit needle-liuke crystal. Effecting separation, washing and drying processes in the same manner as in Example 1, about 2.3 g of 4-chloro-2-methoxybenzoic acid was obtained in crystal at a yield of 86.3%. Concerning 1H-NMR, IR(KBr), GC-MSE1 and melting point, the product was confirmed to show the data agreeable with the reference standard data.

reactant | 2,4-dichlorobenzoic acid | 14.6 mM, 2.8 g | ClC1=C(C(=O)O)C=CC(=C1)Cl | C7H4Cl2O2
reactant | methanol | CO | CH4O
reactant | methanol | 100 ml, 77 g | CO | CH4O
product | 4-chloro-2-methoxybenzoic acid | about 2.3 g, yield of 86.3% | ClC1=CC(=C(C(=O)O)C=C1)OC | C8H7ClO3
